US07582123B2
Synthesis of 3-amino-2-({(1Z,4E)-2-amino-4-[(2-hydroxyethyl)imino]-5-methoxycyclohexa-2,5-dien-1-ylidene}amino)-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one
0.05 mmol of 2,3-diamino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one dimethane sulfonate was dissolved in a mixture of water and ethanol (7.5 ml/1.5 ml). This solution was admixed with 0.05 mmol of 2-[(5-amino-2-methoxyphenyl)amino]ethanol, then with 1.8 ml of concentrated aqueous ammonia, then with 9 ml of hydrogen peroxide.

reactant | 2,3-diamino-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one dimethane sulfonate | 0.05 mmol | CS(=O)(=O)O.CS(=O)(=O)O.NC1=C(N2N(CCC2)C1=O)N
reactant | 2-[(5-amino-2-methoxyphenyl)amino]ethanol | 0.05 mmol | NC=1C=CC(=C(C1)NCCO)OC | C9H14N2O2
reactant | ammonia | 1.8 ml | N | H3N
reactant | hydrogen peroxide | 9 ml | OO | H2O2
solvent | water | O | H2O
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | 3-amino-2-({(1Z,4E)-2-amino-4-[(2-hydroxyethyl)imino]-5-methoxycyclohexa-2,5-dien-1-ylidene}amino)-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazol-1-one | NC1=C(C(N2N1CCC2)=O)\N=C\2/C(=C\C(\C(=C2)OC)=N/CCO)N | C15H20N6O3
